US04318854
8-Chloro-1-(2-fluorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one-2-oxide
A mixture of 3.4 g (11 mmole) of 8-chloro-1-(2-fluorophenyl)-3,4-dihydro-5H-2-benzazepin-5-one-2-oxide and 26 ml of dimethylformamide dimethyl acetal was stirred at room temperature for 12 hr. The mixture was diluted with ether and the precipitate collected to give a yellow solid, mp 175°-178° C. Recrystallization from a mixture of ether and ethyl acetate gave yellow needles, mp 193°-194° C.

reactant | 8-chloro-1-(2-fluorophenyl)-3,4-dihydro-5H-2-benzazepin-5-one-2-oxide | 11 mmole, 3.4 g | ClC1=CC2=C(C(CC[N+](=C2C2=C(C=CC=C2)F)[O-])=O)C=C1 | C16H11ClFNO2
reactant | dimethylformamide dimethyl acetal | 26 ml | COC(N(C)C)OC | C5H13NO2
solvent | ether | CCOCC | C4H10O
product | 8-Chloro-1-(2-fluorophenyl)-3,4-dihydro-4-[(dimethylamino)methylene]-5H-2-benzazepin-5-one-2-oxide | ClC1=CC2=C(C(C(C[N+](=C2C2=C(C=CC=C2)F)[O-])=CN(C)C)=O)C=C1 | C19H16ClFN2O2
